US09382271B2
subjecting norbornene methyl acetate (IIIB) to trans-esterification reaction in the presence of methanol and sodium methoxide at a temperature of from about 40° C. to about 50° C. to form norbornene methanol (IB):

reactant | norbornene methyl acetate | COC(C)=O.C12C=CC(CC1)C2
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | norbornene methanol | C12(C=CC(CC1)C2)CO | C8H12O
